US07541373B2
3-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-propionic acid (15 mg, 88%) was prepared from 3-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-propionic acid ethyl ester (0.03 g, 0.04 mmol) and 2.5M LiOH (20 μL) following the general procedure J.

reactant | 3-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-propionic acid ethyl ester | 0.04 mmol, 0.03 g | C(C)OC(CCC=1N=C(SC1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1)=O | C22H27N3O4S
solvent | LiOH | 2.5M, 20 μL | [Li+].[OH-]
product | 3-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-propionic acid | 15 mg, 88% | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(NC=1SC=C(N1)CCC(=O)O)=O | C20H23N3O4S
